US05173485
To a solution of 7β-amino-3-(5-oxo-4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate bis(trifluoroacetate) (1.5 g) in a mixture of tetrahydrofuran (40 ml) and water (20 ml) was added N,N-dimethylformamide solvate (1.02 g) of 1-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl]-1H-benzotriazol-3-oxide at ambient temperature. The mixture was stirred for 4 hours at pH 7. The solution was adjusted to pH 2 with 1N hydrochloric acid, washed with ethyl acetate five times and evaporated in vacuo to remove ethyl acetate. The solution was subjected to column chromatography on HP-20 and the elution was carried out with 5% aqueous isopropyl alcohol. The objective fraction was collected and lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-oxo-4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate (syn isomer) (261 mg).

reactant | 7β-amino-3-(5-oxo-4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate bis(trifluoroacetate) | 1.5 g | FC(C(=O)[O-])(F)F.FC(C(=O)O)(F)F.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C3N2CCC(N3)=O)C(=O)O)C1=O
reactant | N,N-dimethylformamide | 1.02 g | CN(C=O)C | C3H7NO
reactant | 1-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl]-1H-benzotriazol-3-oxide | NC=1SC=C(N1)C(C(=O)N1N=[N+](C2=C1C=CC=C2)[O-])=NOC | C12H10N6O3S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-oxo-4,5,6,7-tetrahydro-1-pyrazolo[1,5-a]pyrimidinio)methyl-3-cephem-4-carboxylate | 261 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=C3N2CCC(N3)=O)C(=O)[O-])C1=O)=NOC | C20H20N8O6S2
